### PR TITLE
[Merged by Bors] - feat(Bialgebra/MonoidAlgebra): `mapDomain` as a `BialgHom`

### PR DESCRIPTION
**Pull request by YaelDillies**
From Toric

Co-authored-by: Michał Mrugała <kiolterino@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Bialgebra/MonoidAlgebra.lean [hunk 1]
```diff
@@ -47,15 +47,35 @@ instance instBialgebra : Bialgebra R (MonoidAlgebra A X) where
...
+@[simp] lemma mapDomainBialgHom_id : mapDomainBialgHom R (.id M) = .id _ _ := by ext; simp
+
+@[simp]
+lemma mapDomainBialgHom_comp (f : N →* O) (g : M →* N) :
+    mapDomainBialgHom R (f.comp g) = (mapDomainBialgHom R f).comp (mapDomainBialgHom R g) := by
+  ext; simp
+
+lemma mapDomainBialgHom_mapDomainBialgHom (f : N →* O) (g : M →* N) (x : MonoidAlgebra R M) :
+    mapDomainBialgHom R (f.comp g) x = mapDomainBialgHom R f (mapDomainBialgHom R g x) := by
+  ext; simp
```
Comment (erdOne) [inline Mathlib/RingTheory/Bialgebra/MonoidAlgebra.lean:70]: This should either be flipped or be called `mapDomainBialgHom_comp_apply`.

File: Mathlib/RingTheory/Bialgebra/MonoidAlgebra.lean [hunk 2]
```diff
@@ -47,15 +47,35 @@ instance instBialgebra : Bialgebra R (MonoidAlgebra A X) where
       LinearMap.compl₁₂_apply, LinearMap.coeFn_sum, Finset.sum_apply,
       Finset.sum_comm (s := (Coalgebra.Repr.arbitrary R b).index)]
 
+-- TODO: Generalise to `MonoidAlgebra A M →ₐc[R] MonoidAlgebra A N` under `Bialgebra R A`
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Bialgebra/MonoidAlgebra.lean:50]: What makes this difficult?

File: Mathlib/RingTheory/Bialgebra/MonoidAlgebra.lean [hunk 3]
```diff
@@ -47,15 +47,35 @@ instance instBialgebra : Bialgebra R (MonoidAlgebra A X) where
...
+variable (R) in
+/-- If `f : M → N` is a monoid hom, then `MonoidAlgebra.mapDomain f` is a bialgebra hom between
+their monoid algebras. -/
+@[simps]
+noncomputable def mapDomainBialgHom (f : M →* N) : MonoidAlgebra R M →ₐc[R] MonoidAlgebra R N where
+  __ := mapDomainAlgHom R R f
+  map_smul' m x := by simp
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/RingTheory/Bialgebra/MonoidAlgebra.lean:57]: Good point, let's add such a constructor

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
